US05688798
A solution of 0.177 g (0.00053 mol) of 2-methyl-5-(6-phenyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl )-pyrimidin-4-ylamine in 20 ml of ethanol was treated with 0.15 ml (0.000525 mol) of 3.5N ethanolic hydrochloric acid. The solution was completely freed from the solvents and the residue was recrystallized from ethanol/diethyl ether. 0.10 g (47%) of 2-methyl-5-(6-phenyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-pyrimidin-4-ylamine dihydrochloride was obtained as white crystals; m.p. 212°-214°.

reactant | 2-methyl-5-(6-phenyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl )-pyrimidin-4-ylamine | 0.00053 mol, 0.177 g | CC1=NC=C(C(=N1)N)CN1CC2=CC=C(C=C2CC1)C1=CC=CC=C1 | C21H22N4
reactant | hydrochloric acid | 0.000525 mol, 3.5N, 0.15 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-methyl-5-(6-phenyl-3,4-dihydro-1H-isoquinolin-2-ylmethyl)-pyrimidin-4-ylamine dihydrochloride | 0.10 g, 47% | Cl.Cl.CC1=NC=C(C(=N1)N)CN1CC2=CC=C(C=C2CC1)C1=CC=CC=C1 | InChI=1S/C21H22N4.2ClH/c1-15-23-12-20(21(22)24-15)14-25-10-9-18-11-17(7-8-19(18)13-25)16-5-3-2-4-6-16;;/h2-8,11-12H,9-10,13-14H2,1H3,(H2,22,23,24);2*1H
